US04316997
Nafion™ fiber (3.5 g., 0.006" diameter, 1200 equivalent weight, hydrogen form) was loosely packed into a 1 cm. diameter vacuum-jacketed column and dried at 150° C. for 2 hours in a stream of dry nitrogen. The column was fitted onto a 50 ml. round bottom flask equipped with a side arm for sampling. A condenser and drying tube were fitted above the catalyst column. Dodecene-1 (15.0 z.), dry benzene (15.0 g.) and marble boiling chips were added to the flask; reflux was established up to the condenser. Samples (0.2 ml.) were periodically withdrawn via the side arm and analyzed by gas chromatography. The results are shown in Table XV. The residual pot (refluxing flask) contents were distilled through a 1×12 cm. vigreaux column equipped with a reflux ratio take off. The results are shown in Table XVI and illustrate that the integrated reactor fractionator is preferred for obtaining monoalkylated products. Although the conversion is somewhat slower by the refluxing of the mixture up to the catalyst, this method provides that only dodecene and benzene are present at the catalyst surface, in a ratio determined by their contributory vapor pressures, resulting in specific conversion to dodecylbenzene with no polyalkylated benzenes produced.

reactant | hydrogen | [H][H] | H2
reactant | benzene | C1=CC=CC=C1 | C6H6
product | dodecene | C=CCCCCCCCCCC | C12H24
